US04409220
Ethyl 2-amino-7-ethyl-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepine-3-carboxylate dihydrochloride
This compound was prepared analogous to Example 22 from 1-ethyl-2,3,6,7-tetrahydro-4,5-bis(trimethylsilyloxy)-azepine and ethyl 2-amidino-2-aminoacetate dihydrochloride.

reactant | 1-ethyl-2,3,6,7-tetrahydro-4,5-bis(trimethylsilyloxy)-azepine | C(C)N1CCC(=C(CC1)O[Si](C)(C)C)O[Si](C)(C)C | C14H31NO2Si2
reactant | ethyl 2-amidino-2-aminoacetate dihydrochloride | Cl.Cl.C(N)(=N)C(C(=O)OCC)N
product | Ethyl 2-amino-7-ethyl-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepine-3-carboxylate dihydrochloride | Cl.Cl.NC=1C(=NC2=C(CCN(CC2)CC)N1)C(=O)OCC | InChI=1S/C13H20N4O2.2ClH/c1-3-17-7-5-9-10(6-8-17)16-12(14)11(15-9)13(18)19-4-2;;/h3-8H2,1-2H3,(H2,14,16);2*1H
